US07858632B2
To 5-(5-amino-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (314 mg, 1.09 mmol) suspended in water (3 mL) was added acetic acid (0.25 mL, 4.34 mmol). Once all solids had dissolved, sodium cyanate (71 mg, 1.09 mmol, dissolved in 1.5 mL water) was added dropwise. After 30 minutes, the reaction was concentrated and purified with silica gel column chromatography eluting with 92/8/0.1 dichloromethane/methanol/ammonium hydroxide to yield [5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-phenyl]-urea as an off-white solid (244 mg, 68%, M+H)+=333), which was converted to a hydrochloride salt:

reactant | 5-(5-amino-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 1.09 mmol, 314 mg | NC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H19N5O2
reactant | acetic acid | 4.34 mmol, 0.25 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanate | 1.09 mmol, 1.5 mL, 71 mg | [O-]C#N.[Na+]
solvent | water | 3 mL | O | H2O
product | [5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-phenyl]-urea | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C1)NC(=O)N)OC)C(C)C | C15H20N6O3
